US05863917
Tin (II) chloride dihydrate (346.3 g, 1.54 mol) was added to a solution of 2,3,6,7-tetrachloro-5-nitro-quinoxaline (96.2 g, 0.31 mol) in ethyl acetate (1.8 l). The mixture was heated under reflux for 4 hours, cooled and poured cautiously into an excess of aqueous saturated sodium bicarbonate. The mixture was filtered through "Celite", (Trade Mark), washing well with ethyl acetate. The filter cake was macerated with more ethyl acetate and the solid material filtered off. The combined ethyl acetate solutions were dried (MgSO4) and concentrated under reduced pressure to give 5-amino-2,3,6,7-tetrachloroquinoxaline (73.4 g, 84%) as a yellow solid.

reactant | Tin (II) chloride dihydrate | 1.54 mol, 346.3 g | O.O.[Sn](Cl)Cl
reactant | 2,3,6,7-tetrachloro-5-nitro-quinoxaline | 0.31 mol, 96.2 g | ClC1=NC2=CC(=C(C(=C2N=C1Cl)[N+](=O)[O-])Cl)Cl | C8HCl4N3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | 1.8 l | C(C)(=O)OCC | C4H8O2
product | 5-amino-2,3,6,7-tetrachloroquinoxaline | 73.4 g, 84% | NC1=C2N=C(C(=NC2=CC(=C1Cl)Cl)Cl)Cl | C8H3Cl4N3
